US06498164B1
To a solution of 1,3-dibenzyl barbituric acid 265 mg (0.859 mmol) in dry dichloromethane 2.0 mL under a nitrogen atmosphere, added was pyridine 1.0 mL (12 mmol) and stirred at 0° C. Added was isovaleryl chloride 104 mg (0.858 mmol, 1.00 equivalent) in dichloromethane 1.0 mL to the solution slowly during a period of 20 minutes, then stirred at room temperature for 3 hours. Added was dichloromethane 50 mL and washed the organic layer with 2 M hydrochloric acid and saturated brine, and dried over sodium sulfate. Purified was the crude product 351 mg, after removal of the solvent under the reduced pressure, by column chromatography (silica gel, eluted with dichloromethane). It obtained 1,3-dibenzyl-5-(3-methyl-1-oxobutyl)barbituric acid 299 mg as colorless viscous oil at first, and in 2 days it turned white plates (88.7% yield).

reactant | 1,3-dibenzyl barbituric acid | 0.859 mmol, 265 mg | C(C1=CC=CC=C1)N1C(=O)N(C(=O)CC1=O)CC1=CC=CC=C1 | C18H16N2O3
reactant | pyridine | 12 mmol, 1.0 mL | N1=CC=CC=C1 | C5H5N
reactant | isovaleryl chloride | 0.858 mmol, 104 mg, 1.00 equivalent | C(CC(C)C)(=O)Cl | C5H9ClO
solvent | dichloromethane | 2.0 mL | ClCCl | CH2Cl2
solvent | dichloromethane | 1.0 mL | ClCCl | CH2Cl2
solvent | dichloromethane | 50 mL | ClCCl | CH2Cl2
product | 1,3-dibenzyl-5-(3-methyl-1-oxobutyl)barbituric acid | 299 mg, 88.7% yield | C(C1=CC=CC=C1)N1C(=O)N(C(=O)C(C1=O)C(CC(C)C)=O)CC1=CC=CC=C1 | C23H24N2O4
